US04456604
Step A: Preparation of 1-Methyl-4-(3-fluoro-2-pyridinyl)piperazine
A solution of 2-chloro-3-fluoropyridine (1.0 g, 8.5 mmol) and N-methyl piperazine (4.26 g, 42.5 mmol) in n-butanol, 50 ml, is stirred at reflux for 18 hours. After concentrating under reduced pressure at 50° C., the residue is partitioned between ethyl ether and 50% NaOH solution. The ethyl ether extract is washed with a saturated sodium chloride solution, dried over Na2SO4, filtered and concentrated under reduced pressure. The oily product is converted to the hydrogen fumarate salt, mp 148°-149° C., by treatment with fumaric acid in methanol and precipitation with ethyl ether.

reactant | 2-chloro-3-fluoropyridine | 8.5 mmol, 1.0 g | ClC1=NC=CC=C1F | C5H3ClFN
reactant | N-methyl piperazine | 42.5 mmol, 4.26 g | CN1CCNCC1 | C5H12N2
solvent | n-butanol | C(CCC)O | C4H10O
product | 1-Methyl-4-(3-fluoro-2-pyridinyl)piperazine | CN1CCN(CC1)C1=NC=CC=C1F | C10H14FN3
